US09402841B2
Step C: (S)-tert-butyl 3-((8-methoxy-3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)amino)pyrrolidine-1-carboxylate
To a mixture of (S)-tert-butyl 3-((3-(hydrazinyl(imino)methyl)-8-methoxyisoquinolin-1-yl)amino)pyrrolidine-1-carboxylate (400 mg, 1.0 mmol) in dioxane (10 mL) was added CDI (245 mg, 1.5 mmol). The resulting mixture was heated to reflux for 2 hours and then concentrated in vacuo. The crude product was purified by preparative HPLC to give the title compound (80 mg, 18% over 2 steps). ESI-MS m/z [M+H]+ 427.

reactant | (S)-tert-butyl 3-((3-(hydrazinyl(imino)methyl)-8-methoxyisoquinolin-1-yl)amino)pyrrolidine-1-carboxylate | 1.0 mmol, 400 mg | N(N)C(C=1N=C(C2=C(C=CC=C2C1)OC)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C)=N | C20H28N6O3
reactant | CDI | 1.5 mmol, 245 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (S)-tert-butyl 3-((8-methoxy-3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)amino)pyrrolidine-1-carboxylate | 80 mg, 18% | COC=1C=CC=C2C=C(N=C(C12)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C1=NNC(N1)=O | C21H26N6O4
